US07781584B2
2-Bromomethyl-4-fluorobenzonitrile (32).
A mixture of 4-fluoro-2-methylbenzonitrile (2 g, 14.8 mmol), NBS (2.64 g, 15 mmol) and AIBN (100 mg) in CCl4 was refluxed under nitrogen for 2 hours. The reaction was cooled to room temperature. The solid was removed by filtration. The organic solution was concentrated to give crude product as an oil, which was used in the next step without further purification. 1H-NMR (400 MHz, CDCl3): δ 7.68 (dd, J=5.2, 8.4 Hz, 1H), 7.28 (dd, J=2.4, 8.8 Hz, 1H), 7.12 (m, 1H), 4.6 (s, 2H).

reactant | 4-fluoro-2-methylbenzonitrile | 14.8 mmol, 2 g | FC1=CC(=C(C#N)C=C1)C | C8H6FN
reactant | NBS | 15 mmol, 2.64 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 100 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-4-fluorobenzonitrile | BrCC1=C(C#N)C=CC(=C1)F | C8H5BrFN
